US04359588
Cyclododecylmethyl-isopropyl-ether
According to the disclosure of Example 1, 99 g of hydroxymethylcyclododecane was first converted into the sodium alcoholate. 74 g (0.6 mol) of 2-bromopropane was added dropwise to the boiling suspension, and then the mixture was heated for 30 hours under reflux. The reaction mixture was poured into water, the organic phase was washed with water, dried over Na2SO4, and then distilled.

reactant | hydroxymethylcyclododecane | 99 g | OCC1CCCCCCCCCCC1 | C13H26O
reactant | 2-bromopropane | 0.6 mol, 74 g | BrC(C)C | C3H7Br
solvent | water | O | H2O
product | Cyclododecylmethyl-isopropyl-ether | C1(CCCCCCCCCCC1)COC(C)C | C16H32O
